US07691879B2
2-[(6-methoxy-3-methyl-4-phenylisoquinolin-1-yl)amino]ethanol
1-chloro-6-methoxy-3-methyl-4-phenylisoquinoline (0.29 g) was combined with 10 mL of ethanolamine and heated at 120 C for 5 h, then cooled to room temp. The reaction was poured into saturated aqueous sodium carbonate and extracted with EtOAc (3×). The combined organic solutions were washed with water (1×), then dried (Na2SO4) and concentrated. Flash chromatography (10% MeOH/CHCl2) gave a solid which was recrystallized from ether/hexanes to give the titled compound.

reactant | 1-chloro-6-methoxy-3-methyl-4-phenylisoquinoline | 0.29 g | ClC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C | C17H14ClNO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanolamine | 10 mL | C(O)CN | C2H7NO
product | 2-[(6-methoxy-3-methyl-4-phenylisoquinolin-1-yl)amino]ethanol | COC=1C=C2C(=C(N=C(C2=CC1)NCCO)C)C1=CC=CC=C1 | C19H20N2O2
